US09371319B2
Preparation 165: tert-Butyl 2-(1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl)-6-((2-chloro-4-(methylsulfonyl)phenyl)amino)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate
The title compound was prepared from tert-butyl 6-bromo-2-(1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate (Preparation 10) and 2-chloro-4-(methylsulfonyl)aniline using the method described for Example 35. Purified using preparative TLC eluting with 20% ethyl acetate in CH2Cl2. 1H-NMR (500 MHz, DMSO-d6) 1.46, 1.60 (2×s, 9H each), 3.21 (s, 3H), 6.90 (s, 1H), 7.74 (dd, J=2.2, 8.9 Hz, 1H), 7.91 (d, J=2.30 Hz, 1H), 7.93 (s, 1H), 8.07 (s, 1H), 8.30 (d, J=8.5 Hz, 1H), 8.52 (s, 1H), 8.57 (s, 1H), 8.98 (s, 1H).

reactant | tert-butyl 6-bromo-2-(1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | BrC1=CC2=C(C=N1)C=C(N2C(=O)OC(C)(C)C)C=2C=NN(C2)C(=O)OC(C)(C)C | C20H23BrN4O4
reactant | 2-chloro-4-(methylsulfonyl)aniline | ClC1=C(N)C=CC(=C1)S(=O)(=O)C | C7H8ClNO2S
product | tert-Butyl 2-(1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl)-6-((2-chloro-4-(methylsulfonyl)phenyl)amino)-1H-pyrrolo[3,2-c]pyridine-1-carboxylate | C(C)(C)(C)OC(=O)N1N=CC(=C1)C1=CC=2C=NC(=CC2N1C(=O)OC(C)(C)C)NC1=C(C=C(C=C1)S(=O)(=O)C)Cl | C27H30ClN5O6S
